US04542142
6.2 g of dicyclohexylcarbodiimide were introduced into a solution of 7.15 g of tert.-butyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate and 80 mg of 4 dimethylamino-pyridine in 35 ml of methylene chloride and the reaction mixture was stirred for 10 minutes after which 4.5 g of 2,2,2-trichloroethanol were added. The mixture was stirred for 1 hour and was filtered. The filtrate was washed with N hydrochloric acid, then with water until neutral, dried and evaporated to dryness. The 14 g of oil residue were chromatographed over silica gel and eluted with a 97-3 mixture of benzene-ethyl acetate to obtain 9 g of tert.butyl (1R,cis) 2,2-dimethyl-3-(2,2,2-trichloroethoxycarbonylethynyl)-cyclopropane-carboxylate melting at 70°-71° C.

reactant | dicyclohexylcarbodiimide | 6.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tert.-butyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate | 7.15 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)OC(C)(C)C)C | C13H18O4
reactant | dimethylamino-pyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2,2,2-trichloroethanol | 4.5 g | ClC(CO)(Cl)Cl | C2H3Cl3O
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | tert.butyl (1R,cis) 2,2-dimethyl-3-(2,2,2-trichloroethoxycarbonylethynyl)-cyclopropane-carboxylate | 9 g | CC1([C@@H]([C@@H]1C#CC(=O)OCC(Cl)(Cl)Cl)C(=O)OC(C)(C)C)C | C15H19Cl3O4
